US06462092B1
The 3-[(2,5-difluorophenyl)[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol (200 mg, 0.45 mmol) product from EX-661B was dissolved in anhydrous dimethylformamide (20 mL), and powdered K2CO3 (180 mg) was added. The mixture was stirred and heated to 145° C. for 15 h. The mixture was diluted with water (60 mL) and extracted into ether (2×40 mL), which was washed with brine and water. The ether solution was dried over anhydrous MgSO4, and the ether was removed in vacuo. The crude product was purified by flash column chromatography on silica gel eluting with ethyl acetate in hexane (1:15) to give 86.9 mg (48%) of the desired 6-fluoro-3,4-dihydro-4-[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]-2-(tri-fluoromethyl)-2H-1,4-benzoxazine product as a yellow oil, 98% pure by HPLC analysis. 1H NMR (CDCl3) δ 7.39 (t, 1H), 7.17 (m. 3H), 6.88 (m 1H), 6.41 (m, 2H), 5.92 (tt, 1H), 4.54 (m, 1H), 4.45 (s, 2H), 3.44 (m, 2H). 19F NMR (CDCl3) δ −77.7 (d, 3F), −88.6 (m, 2F), −120.28 (m, 1F), −137.2 (dt, 2F). HRMS calcd. for C18H13F8NO2: 428.0899 [M+H]+, found: 428.0910.

reactant | 3-[(2,5-difluorophenyl)[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol | 0.45 mmol, 200 mg | FC1=C(C=C(C=C1)F)N(CC(C(F)(F)F)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C18H14F9NO2
reactant | K2CO3 | 180 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 60 mL | O | H2O
product | 6-fluoro-3,4-dihydro-4-[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]-2-(tri-fluoromethyl)-2H-1,4-benzoxazine | 86.9 mg, 48% | FC=1C=CC2=C(N(CC(O2)C(F)(F)F)CC2=CC(=CC=C2)OC(C(F)F)(F)F)C1 | C18H13F8NO2
